US09371320B2
D) 4-(7-cyano-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide
A suspension of 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide (100 mg), zinc cyanide (41.8 mg) and tetrakis(triphenylphosphine)palladium(0) (54.9 mg) in DMA was stirred under microwave irradiation at 120° C. for 30 min. The reaction mixture was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (61.7 mg).

reactant | 4-(7-bromo-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 100 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2CCCC2)C=2C=C(SC2)C(=O)N | C17H17BrN4O2S
reactant | DMA | CC(=O)N(C)C | C4H9NO
catalyst | zinc cyanide | 41.8 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 54.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(7-cyano-1-cyclopentyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 61.7 mg | C(#N)C=1C2=C(C(=NC1)OC)C(=NN2C2CCCC2)C=2C=C(SC2)C(=O)N | C18H17N5O2S
